US05175296
1-(2-Methylpropyl)-1H-imidazo[4,5-c]quinoline (4 g; 0.017 mole) was dissolved in 50 mL of tetrahydrofuran then cooled to -78° C. A 7.75 mL portion of n-butyl lithium (2.5M in hexanes) was added dropwise to the cooled solution. At 15 minutes post addition, benzaldehyde (2.7 mL; 0.027 mole) was added and the reaction mixture was allowed to warm slightly. The reaction was quenched with water then diluted with ethyl ether. The ether was separated, dried with magnesium sulfate then concentrated under vacuum. The resulting residue was purified by silica gel chromatography using 5% methanol in methylene chloride as the eluent to give an oily yellow solid. This material was recrystallized from methylene chloride/hexane to provide 1-(2-Methylpropyl)-α-phenyl-1H-imidazo[4,5-c]quinoline-2-methanol as a white crystalline solid, m.p. 160°-166° C. Analysis: Calc'd: C, 76.1; H, 6.4; N, 12.7; Found: C, 75.9; H, 6.3; N, 12.7.

reactant | 1-(2-Methylpropyl)-1H-imidazo[4,5-c]quinoline | 0.017 mole, 4 g | CC(CN1C=NC=2C=NC=3C=CC=CC3C21)C | C14H15N3
reactant | n-butyl lithium | 2.5M | C(CCC)[Li]
reactant | benzaldehyde | 0.027 mole, 2.7 mL | C(C1=CC=CC=C1)=O | C7H6O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-(2-Methylpropyl)-α-phenyl-1H-imidazo[4,5-c]quinoline-2-methanol | CC(CN1C(=NC=2C=NC=3C=CC=CC3C21)C(O)C2=CC=CC=C2)C | C21H21N3O
